US05260051
Preparation of Dodecyl-3-Hydroxybutyrate
A 500 ml one neck round bottom flask equipped with a Dean Stark trap, condenser and nitrogen inlet/outlet was charged with 72.0 g (0.69 moles) 3- hydroxybutyric acid, 268.5 g (1.45 moles) dodecyl alcohol, and 0.36 g sulfuric acid (based on 0.5 g/mole 3-hydroxybutyric acid). The mixture was heated to 115 degrees for 48 hours and water was collected as the reaction proceeded. The acid was neutralized by washing three times with 100 ml saturated sodium bicarbonate solution. The organic layer was collected and dried over magnesium sulfate. Excess dodecyl alcohol was removed by high vacuum distillation to yield 117.65 g (60% yield) of clear oil (91% pure by GC).

reactant | 3- hydroxybutyric acid | 0.69 moles, 72.0 g | OC(CC(=O)O)C | C4H8O3
reactant | dodecyl alcohol | 1.45 moles, 268.5 g | C(CCCCCCCCCCC)O | C12H26O
catalyst | sulfuric acid | 0.36 g | S(O)(O)(=O)=O | H2O4S
product | Dodecyl-3-Hydroxybutyrate | 117.65 g, 60% yield | C(CCCCCCCCCCC)OC(CC(C)O)=O | C16H32O3
